US06492383B1
2-((2-Hydroxy-ethyl)-{4-[4-(1H-indol-5-ylamino)-thieno[3,2-d]pyrimidin-6-yl]-benzyl}-amino)-ethanol
The title compound was prepared from 2-(2-hydroxy-ethylamino)-ethanol and 4-[4-(1H-indol-5-ylamino)-thieno[3,2-d]pyrimidin-6-yl]-benzaldehyde by a procedure analogous to example 17. The product was converted to the mesylate salt analogous to example 17 being converted to the HCl salt. M.P. 110-127° C.; LC-MS: 460 (MH+); HPLC RT: 3.50 minutes.

reactant | 2-(2-hydroxy-ethylamino)-ethanol | OCCNCCO | C4H11NO2
reactant | 4-[4-(1H-indol-5-ylamino)-thieno[3,2-d]pyrimidin-6-yl]-benzaldehyde | N1C=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=C(S2)C2=CC=C(C=O)C=C2 | C21H14N4OS
reactant | HCl | Cl | ClH
product | 2-((2-Hydroxy-ethyl)-{4-[4-(1H-indol-5-ylamino)-thieno[3,2-d]pyrimidin-6-yl]-benzyl}-amino)-ethanol | OCCN(CCO)CC1=CC=C(C=C1)C1=CC=2N=CN=C(C2S1)NC=1C=C2C=CNC2=CC1 | C25H25N5O2S
